US07888352B2
(S)-1-(4-((2-(2-aminopyrimidin-5-yl)-4-(3-methylmorpholino)thieno[3,2-d]pyrimidin-6-yl)methyl)-1,4-diazepan-1-yl)ethanone 425
Following General Procedure D, (S)-2-chloro-4-(3-methylmorpholino)thieno[3,2-d]pyrimidine-6-carbaldehyde (110 mg, 0.37 mmol), HOAc (22 mg), NaBH(OAc)3 (101 mg, 0.48 mmol), N-acetylhomopiperazine (63 mg, 0.44 mmol), 1,2-dichloroethane (1.0 mL), trimethylorthoformate were reacted at room temperature for 2 h. The crude product was used in the next step without purification. MS (Q1) 424 (M)+. Following general procedure A: crude product from above, 2-aminopyrimidine-5-boronic acid pinacol ester (106 mg, 0.48 mmol), Pd(PPh3)4 (30 mg), MeCN (1.5 mL) and 1M KOAc in H2O (1.5 mL) were irradiated at 140° C. for 30 min. The reaction mixture was diluted with CH2Cl2, and filtered. The filtrate was concentrated to give crude 425 which was purified by reverse phase HPLC (68 mg). MS (Q1) 483 (M)+

reactant | (S)-2-chloro-4-(3-methylmorpholino)thieno[3,2-d]pyrimidine-6-carbaldehyde | 0.37 mmol, 110 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=O)N2[C@H](COCC2)C | C12H12ClN3O2S
reactant | NaBH(OAc)3 | 0.48 mmol, 101 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | N-acetylhomopiperazine | 0.44 mmol, 63 mg | C(C)(=O)N1CCNCCC1 | C7H14N2O
reactant | trimethylorthoformate | COC(OC)OC | C4H10O3
reactant | 2-aminopyrimidine-5-boronic acid pinacol ester | 0.48 mmol, 106 mg | NC1=NC=C(C=N1)B1OC(C)(C)C(C)(C)O1 | C10H16BN3O2
reactant | KOAc | 1M | CC(=O)[O-].[K+]
solvent | H2O | 1.5 mL | O | H2O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
catalyst | Pd(PPh3)4 | 30 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | MeCN | 1.5 mL | CC#N | C2H3N
solvent | 1,2-dichloroethane | 1.0 mL | ClCCCl | C2H4Cl2
solvent | HOAc | 22 mg | CC(=O)O | C2H4O2
product | (S)-1-(4-((2-(2-aminopyrimidin-5-yl)-4-(3-methylmorpholino)thieno[3,2-d]pyrimidin-6-yl)methyl)-1,4-diazepan-1-yl)ethanone | NC1=NC=C(C=N1)C=1N=C(C2=C(N1)C=C(S2)CN2CCN(CCC2)C(C)=O)N2[C@H](COCC2)C | C23H30N8O2S
